US06242443B1
c) 3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt
To a hot solution of 2-amino-5-nitrobenzenesulfonamide (5 g) in dioxane (150 mL) was added thiocarbonyidiimidazole (14 g) and the reaction mixture was refluxed for 5 h. After cooling, the precipitate of the title compound was collected by filtration, washed with dioxane and dried to give the title compound (yield 5.7 g ); m.p. 246-248° C.

reactant | 2-amino-5-nitrobenzenesulfonamide | 5 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H7N3O4S
reactant | thiocarbonyidiimidazole | 14 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt | yield 5.7 g | [NH+]1=CNC=C1.N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O | InChI=1S/C10H7N5O4S.C3H4N2/c16-15(17)7-1-2-8-9(5-7)20(18,19)13-10(12-8)14-4-3-11-6-14;1-2-5-3-4-1/h1-6H,(H,12,13);1-3H,(H,4,5)/p+1
